US08541588B2
tert-Butyl 4-[2-methoxy-5-(trifluoromethyl)phenyl]-3,6-dihydropyridine-1(2H)-carboxylate
A suspension of 2-bromo-1-methoxy-4-(trifluoromethyl)benzene (825 mg, 3.23 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridine-1(2H)-carboxylate (1.00 g, 3.23 mmol), potassium carbonate (1.34 g, 9.697 mmol) and [1,1-bis(diphenylphosphino)ferrocene]dichloro-palladium(11) complex with dichloromethane (1:1) (158 mg, 0.193 mmol) in N,N-dimethylformamide (19 mL) was purged with argon. After 30 minutes, the reaction mixture was heated at 90° C. and stirred for 22 hours before cooling to room temperature and filtering through Celite™, washing with ethyl acetate. The filtrate was concentrated in vacuo to ˜quarter and partitioned between water (100 mL) and ethyl acetate (75 mL). The aqueous layer was extracted with ethyl acetate (2×75 mL). Combined organic layers were washed with water, aqueous lithium chloride solution, saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by automated flash chromatography (24 g silica gel) eluting with hexanes:ethyl acetate (gradient 1:0 to 3:1, by volume) to afford the title compound as a clear oil, 1.1 g.

reactant | 2-bromo-1-methoxy-4-(trifluoromethyl)benzene | 3.23 mmol, 825 mg | BrC1=C(C=CC(=C1)C(F)(F)F)OC | C8H6BrF3O
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridine-1(2H)-carboxylate | 3.23 mmol, 1.00 g | CC1(OB(OC1(C)C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | potassium carbonate | 9.697 mmol, 1.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | 0.193 mmol, 158 mg | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 19 mL | CN(C=O)C | C3H7NO
product | tert-Butyl 4-[2-methoxy-5-(trifluoromethyl)phenyl]-3,6-dihydropyridine-1(2H)-carboxylate | COC1=C(C=C(C=C1)C(F)(F)F)C=1CCN(CC1)C(=O)OC(C)(C)C | C18H22F3NO3
